US06720329B2
Methyl (5R,7S,8R)-8-{[4-(2H-chromen-4-yl)benzoyl]amino}-1-oxaspiro[4.4]nonane-7-carboxylate from reaction 34e (0.12 g, 0.29 mmol) was dissolved in methanol (30 mL), degassed with nitrogen, 5% Pd/C was added and the reaction was charged to 55 psi hydrogen. The reaction was shaken for 6 h. The catalyst was removed over Celite and the filtrate was concentrated to give methyl (5R,7S,8R)-8-{[4-(3,4-dihydro-2H-chromen-4-yl)benzoyl]amino}-1-oxaspiro[4.4]nonane-7-carboxylate (0.10 g, 80%) as a clear oil.

reactant | Methyl (5R,7S,8R)-8-{[4-(2H-chromen-4-yl)benzoyl]amino}-1-oxaspiro[4.4]nonane-7-carboxylate | O1CC=C(C2=CC=CC=C12)C1=CC=C(C(=O)N[C@H]2[C@H](C[C@]3(CCCO3)C2)C(=O)OC)C=C1 | C26H27NO5
solvent | methanol | 30 mL | CO | CH4O
product | methyl (5R,7S,8R)-8-{[4-(3,4-dihydro-2H-chromen-4-yl)benzoyl]amino}-1-oxaspiro[4.4]nonane-7-carboxylate | 0.10 g, 80% | O1CCC(C2=CC=CC=C12)C1=CC=C(C(=O)N[C@H]2[C@H](C[C@]3(CCCO3)C2)C(=O)OC)C=C1 | C26H29NO5
